US04705807
(d) N-{2-(3,4-Dichlorophenyl)bicyclo[2,2,2]oct-2-ene-3-yl}-methylidene-methylamine
A 33% solution of methylamine in ethanol (250 ml) was added in one lot to 3-formyl-2-(3,4-dichlorophenyl)bicyclo[2,2,2]oct-2-ene (25 g; 0.089 m) in dichloromethane (50 ml) at 0° C. After 1 hour, the solution was evaporated to yield an oil. Yield 26 g. (100%). An infrared spectrum showed complete loss of the carbonyl group. A peak at 1630 cm-1 indicated the presence of an imine (--CH=N--Me group). M+ 293/295.

reactant | methylamine | CN | CH5N
reactant | 3-formyl-2-(3,4-dichlorophenyl)bicyclo[2,2,2]oct-2-ene | 25 g | C(=O)C1=C(C2CCC1CC2)C2=CC(=C(C=C2)Cl)Cl | C15H14Cl2O
reactant | ethanol | 250 ml | C(C)O | C2H6O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-{2-(3,4-Dichlorophenyl)bicyclo[2,2,2]oct-2-ene-3-yl}-methylidene-methylamine | ClC=1C=C(C=CC1Cl)C=1C2CCC(C1NC=C)CC2 | C16H17Cl2N
